US08604069B2
(A-53-20) tert-Butyl 3-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl]-6-hydroxyhexanoate
tert-Butyl 6-benzyloxy-3-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl]hexanoate (980 mg), methanol (10 mL) and tetrahydrofuran (3 mL) were mixed. To the mixture was added 7.5 w/w % palladium on activated carbon (200 mg). The mixture was stirred at RT under hydrogen atmosphere (1 atm) for 5 hr. The catalyst was freshened up, and the mixture was stirred at RT under hydrogen atmosphere (1 atm) overnight. The 7.5 w/w % palladium on activated carbon was filtered off and the filtrate was concentrated in vacuo.

reactant | tert-Butyl 6-benzyloxy-3-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl]hexanoate | 980 mg | C(C1=CC=CC=C1)OCCCC(CC(=O)OC(C)(C)C)C1=NOC(=C1C1CC1)C1CC(C1)CC(C)(C)C | C32H47NO4
reactant | methanol | 10 mL | CO | CH4O
catalyst | palladium on activated carbon | 200 mg | [Pd] | Pd
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | tert-Butyl 3-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl]-6-hydroxyhexanoate | C1(CC1)C=1C(=NOC1C1CC(C1)CC(C)(C)C)C(CC(=O)OC(C)(C)C)CCCO | C25H41NO4
